US07754759B2
To a solution of C—[(R)-7-(3-Fluoro-benzenesulfonyl)-chroman-2-yl]-methylamine (0.130 g, 0.405 mmol) in methylene chloride (10 mL) at 0° C. was added methyl isocyanate (0.115 g, 2.03 mmol). The mixture was stirred at room temperature for one hour, and was then quenched by addition of MeOH. The mixture was partitioned between water and methylene chloride, and the organic phase was washed with water and brine, dried (Na2SO4), filtered and contrated under reduced pressure. Purification of the residue by flash chromatography (hexanes:EtOAc 1:9) gave 0.153 g of 1-[(R)-7-(3-fluoro-benzenesulfonyl)-chroman-2-ylmethyl]-3-methyl-urea as a foam. MS (M+H)=379.

reactant | C—[(R)-7-(3-Fluoro-benzenesulfonyl)-chroman-2-yl]-methylamine | 0.405 mmol, 0.130 g | FC=1C=C(C=CC1)S(=O)(=O)C1=CC=C2CC[C@@H](OC2=C1)CN | C16H16FNO3S
reactant | methyl isocyanate | 2.03 mmol, 0.115 g | CN=C=O | C2H3NO
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-[(R)-7-(3-fluoro-benzenesulfonyl)-chroman-2-ylmethyl]-3-methyl-urea | 0.153 g | FC=1C=C(C=CC1)S(=O)(=O)C1=CC=C2CC[C@@H](OC2=C1)CNC(=O)NC | C18H19FN2O4S
